US05336691
To prepare the (+) enantiomer of the title compound, the reaction was run under the same conditions except that (+)-tramadol as the free base was used instead of the (-)-tramadol to yield 2.8 g of the (+) enantiomer of O-desmethyl tramadol (mp. 242°-3° C.) [α]D25 =+32.2 (C=1, EtOH).

reactant | (+)-tramadol | CN(C)C[C@H]1CCCC[C@@]1(C2=CC(=CC=C2)OC)O | C16H25NO2
reactant | (-)-tramadol | CN(C)C[C@@H]1CCCC[C@]1(C2=CC(=CC=C2)OC)O | C16H25NO2
solvent | EtOH | CCO | C2H6O
product | O-desmethyl tramadol | CN(C)C[C@H]1CCCC[C@@]1(C=2C=CC=C(C2)O)O | C15H23NO2
